US07223791B2
A mixture of 5-iodosalicylic acid (6.60 g), benzyl bromide (6.54 ml), potassium carbonate (13.8 g) and N,N-dimethylformamide (100 ml) was stirred at room temperature for 2 hrs. and poured into water. The mixture was extracted with ethyl acetate. The organic layer was washed three times with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1, volume ratio), and crystallized from hexane-ethyl acetate to give benzyl 2-benzyloxy-5-iodobenzoate (7.75 g, yield 70%) as colorless plate crystals. melting point: 72–73° C.

reactant | 5-iodosalicylic acid | 6.60 g | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | benzyl bromide | 6.54 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl 2-benzyloxy-5-iodobenzoate | 7.75 g, yield 70% | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)I | C21H17IO3
